US08067445B2
Synthesis of Cyclopropanecarboxylic acid (5′-cyanomethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-amide (Compound 2-3)
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetonitrile and cyclopropanecarbonyl chloride. M+H is 417.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetonitrile | C(C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC#N | C19H19F3N2O
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid (5′-cyanomethyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-ethyl-amide | C(#N)CC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)C1CC1)CC)OC | C23H23F3N2O2
